US07205302B2
(R)-3-{2-[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]-1-hydroxyethyl}phenol
In the same manner as in the step 1 of Example 9, except that 2-chloro-5,6-diphenylpyrazine was used in place of 2-chloro-5,6-di-p-tolylpyrazine and L-phenylephrine was used in place of 4-(methylamino)-1-butanol, the desired compound was prepared as a pale brown amorphous.

reactant | 2-chloro-5,6-diphenylpyrazine | ClC1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H11ClN2
reactant | L-phenylephrine | CNC[C@@H](C1=CC(=CC=C1)O)O | C9H13NO2
product | (R)-3-{2-[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]-1-hydroxyethyl}phenol | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)N(C)C[C@H](O)C=1C=C(C=CC1)O | C25H23N3O2
